* SpiceNetList
* 
* Exported from EMG2.sch at 3/27/2019 12:32 AM
* 
* EAGLE Version 9.3.1 Copyright (c) 1988-2019 Autodesk, Inc.
* 
.TEMP=25.0

* --------- .OPTIONS ---------
.OPTIONS ABSTOL=1e-12 GMIN=1e-12 PIVREL=1e-3 ITL1=100 ITL2=50 PIVTOL=1e-13 RELTOL=1e-3 VNTOL=1e-6 CHGTOL=1e-15 ITL4=10 METHOD=TRAP SRCSTEPS=0 TRTOL=7 NODE

* --------- .PARAMS ---------

* --------- devices ---------
R_R6 N_17 N_27 1K 
R_R22 N_28 N_26 1K 
C_C6 N_26 0 1uF 
R_R2 0 N_7 102K 
R_R19 +9V N_26 10k 
R_R15 N_24 N_20 4.5K 
R_R21 N_26 N_23 180 
C_C1 N_6 N_5 220nF 
R_R7 N_12 N_17 100K 
R_R14 N_20 N_22 18K 
C_C2 N_5 N_7 220nF 
C_C3 N_11 N_9 33nF 
D_D1 N_25 N_24 DMOD 
R_R12 N_4 N_11 5.1k 
R_R20 N_23 -9V 10k 
X_IC2 N_11 N_10 N_11 N_8 N_7 N_8 +9V -9V OP275p 
X_IC3 N_17 N_28 N_12 N_27 N_14 N_27 +9V -9V OP275p 
R_R11 0 N_21 10k 
C_C8 N_27 N_4 100nF 
C_C5 +9V 0 100u 
X_IC5 N_20 N_15 N_25 N_22 N_21 N_22 +9V -9V OP275p 
R_R1 N_5 N_8 51K 
C_C4 N_10 0 22nF 
R_R8 N_15 N_12 18K 
R_R13 N_14 N_4 20k 
V_G3 +9V 0 DC 9V AC 0 
R_R10 N_21 +5V 10K 
C_C7 0 -9V 100u 
X_IC1 N_3 N_3 +9V -9V N_6 0  N_1 N_2 INA118a 
R_RG N_2 N_1 1K 
R_R4 N_10 N_9 20k 
R_R3 N_9 N_8 6.8k 
V_V1 N_6 0 DC 0V AC .02V 
V_G4 0 -9V DC 9V AC 0 
C_C9 N_14 0 10nF 

* --------- models ---------

* model file: D:/project/senior-project/TheHand/schematics/hand sensor/INA118a.mdl
* INA118
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: INA118
* Date: 13JUN2011
* Model Type: ALL IN ONE
* Simulator: TINA
* Simulator Version: 9.1.30.94 SF-TI
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS027
*
* Model Version: 1.0
*
*****************************************************************************
* 
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
***** INA118 SUB-CIRCUIT
* CONNECTIONS:          NON-INVERTING INPUT
*                       |   INVERTING INPUT
*                       |   |   POSITIVE POWER SUPPLY
*                       |   |   |   NEGATIVE POWER SUPPLY
*                       |   |   |   |   OUTPUT
*                       |   |   |   |   |   REFERENCE
*                       |   |   |   |   |   |   GAIN SENSE 1
*                       |   |   |   |   |   |   |   GAIN SENSE 2
*                       |   |   |   |   |   |   |   |
.SUBCKT INA118a         1   2   3   4   5   8   9  10
*
***** A1_118 SUB-CIRCUIT
* CONNECTIONS:          NON-INVERTING INPUT
*                       |   INVERTING INPUT
*                       |   |   POSITIVE POWER SUPPLY
*                       |   |   |   NEGATIVE POWER SUPPLY
*                       |   |   |   |   OUTPUT
*                       |   |   |   |   |
X1                     15  17   3   4  11   A1_118
*
***** A2_118 SUB-CIRCUIT
* CONNECTIONS:          NON-INVERTING INPUT
*                       |   INVERTING INPUT
*                       |   |   POSITIVE POWER SUPPLY
*                       |   |   |   NEGATIVE POWER SUPPLY
*                       |   |   |   |   OUTPUT
*                       |   |   |   |   |
X2                     15  16   3   4  12   A2_118
*
***** A3_118 SUB-CIRCUIT
* CONNECTIONS:          NON-INVERTING INPUT
*                       |   INVERTING INPUT
*                       |   |   POSITIVE POWER SUPPLY
*                       |   |   |   NEGATIVE POWER SUPPLY
*                       |   |   |   |   OUTPUT
*                       |   |   |   |   |
X3                     14  13   3   4   5   A3_118
*
R1    11  13   60.0000K
R2    13   5   59.994K
R3    12  14   60.0000K
R4    14   8   60.0000K
CIN   13  14    4.0000PF
*
R1FB   9  11   25.0000K
CC1   17  11  13.0000PF
R2FB  10  12   25.0000K
CC2   16  12  13.0000PF
CG1    9   0  10.0000PF
CG2   10   0   9.0000PF
****************************
* INA118 "E" - ENHANCEMENTS
****************************
RDIFF  1   2   1.0000E10
R1CM   1   0   2.5000E10
R2CM   2   0   2.5000E10
CDIF   1   2   1.0000PF
C1CM   1   0   4.0000PF
C2CM   2   0   4.0000PF
****************************
RCE   17   9   1.7G
*
I1     3  16  DC  15.00E-6
I2     3  17  DC  15.00E-6
IB1CAN 3   1  DC  29.00E-9
IB2CAN 3   2  DC  29.00E-9
*
D1    15  17      DX
D2    15  16      DX
*
Q1    16   1  10  QX
Q2    17   2   9  QX
*
V1     3  15  DC  1.100
*
*********************************
* INA118 "E" - ENHANCEMENTS
*********************************
* POS INPUT PROTECTION
VS11 3  31 0
S11  31  0 1 0 SP
FS12 1   4 VS11 1 
FS11 0   3 VS11 1
VS21 32  4 0 
S21  0  32 1 0 SM
FS22 3   1 VS21 1   
FS21 4   0 VS21 1
* NEG INPUT PROTECTION
VS112 3  33 0
S112  33  0 2 0 SP
FS122 2   4 VS112 1
FS112 0   3 VS112 1
VS212 34  4 0 
S212  0  34 2 0 SM
FS222 3   2 VS212 1
FS212 4   0 VS212 1
*********************************
.model sp SW(ron=300k, roff=100g, von=14.8, voff=14.7) 
.model sm SW(ron=3.5k, roff=100g, von=-15.1, voff=-15.0)
.MODEL DX D(IS=1.0E-24)
.MODEL QX NPN(IS=800.0E-18 BF=500)
.ENDS INA118
* A1_118 operational amplifier "macromodel" subcircuit
* created using Parts release 6.0 on 05/20/94 at 09:20
* Parts is a MicroSim product.
*
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |
.subckt A1_118  1 2 3 4 5
*
  c1   11 12 1.340E-12
  c2    6  7 10.00E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 127.3E6 -130E6 130E6 130E6 -130E6
  ga    6  0 11 12 110.0E-6
  gcm   0  6 10 99 11.00E-12
  iss   3 10 dc 10.00E-6
  hlim 90  0 vlim 1K
  j1   11  2 10 jx
  j2   12  1 10 jx
  r2    6  9 100.0E3
  rd1   4 11 9.095E3
  rd2   4 12 9.095E3
  ro1   8  5 50
  ro2   7 99 25
  rss  10 99 20.00E6
  vb    9  0 dc 0
  vc    3 53 dc .6
  ve   54  4 dc .6
  vlim  7  8 dc 0
  vlp  91  0 dc 20
  vln   0 92 dc 20
****************************
* A1_118 "E" - ENHANCEMENTS
****************************
* OUTPUT SUPPLY MIRROR
FQ3 0 20 POLY(1) VLIM 0 1
DQ1 20 21 DX
DQ2 22 20 DX
VQ1 21 0 0
VQ2 22 0 0 
FQ1 3 0 POLY(1) VQ1 0 1
FQ2 0 4 POLY(1) VQ2 0 -1
*****************************
.model dx D(Is=800.0E-18)
.model jx PJF(Is=15.00E-12 Beta=1.209E-3 Vto=-1)
.ends
* A2_118 operational amplifier "macromodel" subcircuit
* created using Parts release 6.0 on 05/20/94 at 09:20
* Parts is a MicroSim product.
*
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |
.subckt A2_118  1 2 3 4 5
*
  c1   11 12 1.340E-12
  c2    6  7 10.00E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 127.3E6 -130E6 130E6 130E6 -130E6
  ga    6  0 11 12 110.0E-6
  gcm   0  6 10 99 11.00E-12
  iss   3 10 dc 10.00E-6
  hlim 90  0 vlim 1K
  j1   11  2 10 jx
  j2   12  1 10 jx
  r2    6  9 100.0E3
  rd1   4 11 9.095E3
  rd2   4 12 9.095E3
  ro1   8  5 50
  ro2   7 99 25
  rss  10 99 20.00E6
  vb    9  0 dc 0
  vc    3 53 dc .6
  ve   54  4 dc .6
  vlim  7  8 dc 0
  vlp  91  0 dc 20
  vln   0 92 dc 20
****************************
* A2_118 "E" - ENHANCEMENTS
****************************
* OUTPUT SUPPLY MIRROR
FQ3 0 20 POLY(1) VLIM 0 1
DQ1 20 21 DX
DQ2 22 20 DX
VQ1 21 0 0
VQ2 22 0 0 
FQ1 3 0 POLY(1) VQ1 0 1
FQ2 0 4 POLY(1) VQ2 0 -1
****************************
.model dx D(Is=800.0E-18)
.model jx PJF(Is=15.00E-12 Beta=1.209E-3 Vto=-1)
.ends
* A3_118 operational amplifier "macromodel" subcircuit
* created using Parts release 6.0 on 05/20/94 at 09:22
* Parts is a MicroSim product.
*
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |
.subckt A3_118  1 2 3 4 5
*
  c1   11 12 3.501E-12
  c2    6  7 10.00E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 212.2E6 -210E6 210E6 210E6 -210E6
  ga    6  0 11 12 75.40E-6
  gcm   0  6 10 99 754.0E-12
  iee  10  4 dc 9.002E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   3 11 13.26E3
  rc2   3 12 13.26E3
  re1  13 10 7.514E3
  re2  14 10 7.514E3
  ree  10 99 22.22E6
  ro1   8  5 75
  ro2   7 99 75
  vb    9  0 dc 0
  vc    3 53 dc 1.400
  ve   54  4 dc .8
  vlim  7  8 dc 0
  vlp  91  0 dc 4.5
  vln   0 92 dc 11.5
****************************
* A3_118 "E" ENHANCEMENTS
****************************
*OUTPUT SUPPLY MIRROR
FQ3 0 20 POLY(1) VLIM 0 1
DQ1 20 21 DX
DQ2 22 20 DX
VQ1 21 0 0
VQ2 22 0 0 
FQ1 3 0 POLY(1) VQ1 260.8E-6 1
FQ2 0 4 POLY(1) VQ2 261.0E-6 -1
* SUPPLY CURRENT VARIATION
RQ 3 4 1.365E6
****************************
.model dx D(Is=800.0E-18)
.model qx NPN(Is=800.0E-18 Bf=4.500E3)
.ends


* model file: D:/project/senior-project/TheHand/schematics/hand sensor/OP275p.mdl
* OP275 SPICE Macro-model        
* Description: Amplifier                                      
* Generic Desc: 9/30V, BIP, OP, Low Noise, Audio, 2X
* Developed by: JCB / PMI
* Revision History: 08/10/2012 - Updated to new header style
* 3.0 (03/1995) - Added common-mode input capacitance. 
*  		- Corrected output short circuit current.
*    		- Corrected common-mode zero location.
* Copyright 1995, 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*
* Parameters modeled include:
*
* END Notes
*
* Node assignments
*               non-inverting input
*               | inverting input
*               | | positive supply
*               | | |  negative supply
*               | | |  |  output
*               | | |  |  |
*               | | |  |  |
.SUBCKT OP275p in1- in1+ out1 in2- in2+ out2 vdd vss
X1 in1+ in1- vdd vss out1 OP275
X2 in2+ in2- vdd vss out2 OP275
.ENDs
.SUBCKT OP275   1 2 99 50 34
*
* INPUT STAGE & POLE AT 100 MHZ
*
R3   5 51     2.188
R4   6 51     2.188
CIN  1  2     3.7E-12
CM1  1 98     7.5E-12
CM2  2 98     7.5E-12
C2   5  6     364E-12
I1   97 4     100E-3
IOS  1  2     1E-9
EOS  9  3     POLY(1)  26 28  0.5E-3  1
Q1   5  2  7  QX
Q2   6  9  8  QX
R5   7  4     1.672
R6   8  4     1.672
D1   2 36     DZ
D2   1 36     DZ
EN   3  1     10  0  1
GN1  0  2     13  0  1E-3
GN2  0  1     16  0  1E-3
*
EREF 98 0     28  0  1
EP   97 0     99  0  1
EM   51 0     50  0  1
*
* VOLTAGE NOISE SOURCE
*
DN1  35 10    DEN
DN2  10 11    DEN
VN1  35  0    DC 2
VN2  0  11    DC 2
*
* CURRENT NOISE SOURCE
*
DN3  12 13    DIN
DN4  13 14    DIN
VN3  12  0    DC 2
VN4  0  14    DC 2
*
* CURRENT NOISE SOURCE
*
DN5  15 16    DIN
DN6  16 17    DIN
VN5  15  0    DC 2
VN6  0  17    DC 2
*
* GAIN STAGE & DOMINANT POLE AT 32 HZ
*
R7  18 98     1.09E6
C3  18 98     4.55E-9
G1  98 18     5  6  4.57E-1
V2  97 19     1.35
V3  20 51     1.35
D3  18 19     DX
D4  20 18     DX
*
* POLE/ZERO PAIR AT 1.5MHz/2.7MHz
*
R8  21 98     1E3
R9  21 22     1.25E3
C4  22 98     47.2E-12
G2  98 21     18 28  1E-3
*
* POLE AT 100 MHZ
*
R10 23 98     1
C5  23 98     1.59E-9
G3  98 23     21 28  1
*
* POLE AT 100 MHZ
*
R11 24 98     1
C6  24 98     1.59E-9
G4  98 24     23 28  1
*
* COMMON-MODE GAIN NETWORK WITH ZERO AT 1 kHZ
*
R12 25 26     1E6
C7  25 26     159.15E-12
R13 26 98     1
E2  25 98     POLY(2) 1 98 2 98 0 2.50 2.50
*
* POLE AT 100 MHZ
*
R14 27 98     1
C8  27 98     1.59E-9
G5  98 27     24 28  1
*
* OUTPUT STAGE
*
R15 28 99     100E3
R16 28 50     100E3
C9  28 50     1E-6
ISY 99 50     1.85E-3
R17 29 99     100
R18 29 50     100
L2  29 34     1E-9
G6  32 50     27 29  10E-3
G7  33 50     29 27  10E-3
G8  29 99     99 27  10E-3
G9  50 29     27 50  10E-3
V4  30 29     1.3
V5  29 31     3.8
F1  29  0     V4  1
F2  0  29     V5  1
D5  27 30     DX
D6  31 27     DX
D7  99 32     DX
D8  99 33     DX
D9  50 32     DY
D10 50 33     DY
*
* MODELS USED
*
.MODEL QX PNP(BF=5E5)
.MODEL DX   D(IS=1E-12)
.MODEL DY   D(IS=1E-15 BV=50)
.MODEL DZ   D(IS=1E-15 BV=7.0)
.MODEL DEN  D(IS=1E-12 RS=4.35K KF=1.95E-15 AF=1)
.MODEL DIN  D(IS=1E-12 RS=268 KF=1.08E-15 AF=1)
.ENDS


* (model found in library)

**********************
* Autodesk EAGLE - Spice Model File
* Date: 9/17/17
* basic diode intrinsic model
**********************
.MODEL DMOD D


* --------- simulation ---------

.control
set filetype=ascii
AC Lin 500 1 2000 
write EMG2.sch.sim V(N_12) V(N_27) V(N_26) V(N_28) I(V_G4) I(V_V1) I(V_G3)
.endc


.END










